US06734179B2
To a stirred solution of 0.99 g (4.92 mmol) 2-bromo-isonicotinic acid in 40 ml THF were added 2.16 g (5.67 mmol) HATU and 0.97 ml (5.67 mmol) N-ethyldiisopropylamine and stirring continued at room temperature for 1 h. A solution of 1.00 g (3.78 mmol) 4-methoxy-7-(tetrahydro-pyran-2-yl)-benzothiazol-2-ylamine in 20 ml dioxane and 4 ml DMF was then added and stirring continued at room temperature for 48 h. The reaction mixture was then poured into aqueous sodium bicarbonate solution and extracted three times with dichloromethane. The combined organic phases were washed with 1 M hydrochloric acid, then dried over sodium sulfate and concentrated in vacuo. Flash chromatography (acetone/hexane 1/4) followed by trituration in ether afforded 500 mg (29%) 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-2-yl)-benzothiazol-2-yl]-isonicotinamide as a light yellow crystalline solid. ES-MS m/e (%): 450 (M{81Br}+H+, 100), 448 (M{79Br}+H+, 80).

reactant | 2-bromo-isonicotinic acid | 4.92 mmol, 0.99 g | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | HATU | 5.67 mmol, 2.16 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | 5.67 mmol, 0.97 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methoxy-7-(tetrahydro-pyran-2-yl)-benzothiazol-2-ylamine | 3.78 mmol, 1.00 g | COC1=CC=C(C2=C1N=C(S2)N)C2OCCCC2 | C13H16N2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-2-yl)-benzothiazol-2-yl]-isonicotinamide | 500 mg, 29% | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCCC3)OC)C=CN1 | C19H18BrN3O3S
